US05292767
Under nitrogen atmosphere, lithium bromide (208 mg) and sodium borohydride (50 mg) were dissolved in ethanol (3 ml) and the mixture was stirred for 45 minutes at room temperature. Under ice-cooling, trans-4-cyano-5-ethoxycarbonyltetrahydrothiophene (122 mg) dissolved in ethanol (2 ml) was added to the solution and the mixture was stirred over night. Aqueous ammonium chloride solution was added to the mixture under ice-cooling and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 90 mg (95%) of trans-4-cyano-5-hydroxymethyltetrahydrothiophene.

reactant | lithium bromide | 208 mg | [Br-].[Li+]
reactant | sodium borohydride | 50 mg | [BH4-].[Na+]
reactant | trans-4-cyano-5-ethoxycarbonyltetrahydrothiophene | 122 mg | C(#N)[C@@H]1CCS[C@H]1C(=O)OCC | C8H11NO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | trans-4-cyano-5-hydroxymethyltetrahydrothiophene | 90 mg, 95% | C(#N)[C@@H]1CCS[C@H]1CO | C6H9NOS
